US03940489
1-(2-cyano-3-methyl-phenoxy)-2,3-epoxy propane, prepared from 17 gm (0.128 mol) of 2-cyano-3-methylphenol and 12.2 gm (0.132 mol) of epichlorohydrin in 125 ml of 1 N NaOH, was dissolved as a dark, impure viscous oil in 200 ml of methanol, and 29 ml of tert.-butylamine were added thereto. After refluxing the mixture for 2 hours, the solvent was distilled off under vacuum, and the brown residue was extracted with dilute HCl. The clear solution was filtered over charcoal and was made alkaline with NaOH. The precipitating base was taken up in ether and the organic phase was separated and was washed repeatedly with water and dried over MgSO4. After concentration up to weight constancy, 4.5 gm of a base remained and this was dissolved in a small amount of ethanol. The hydrochloride salt was precipitated by an addition of ethereal HCl and was isolated as a solid product. It was recrystallized from acetonitrile with an addition of ether followed by a second recrystallization from ethanol with an addition of ether to obtain 1-(2-cyano-3-methyl-phenoxy)-2-hydroxy-3-tert.-butylamino propane hydrochloride having a melting point of 178° - 180°C. Using this same procedure, there was obtained 1-(2-cyanomethyl-3-methyl-phenoxy)-2-hydroxy-3-tert.-butylamino-propane hydrochloride.

reactant | 1-(2-cyano-3-methyl-phenoxy)-2,3-epoxy propane | C(#N)C1=C(OCC2CO2)C=CC=C1C | C11H11NO2
reactant | 2-cyano-3-methylphenol | 0.128 mol, 17 gm | C(#N)C1=C(C=CC=C1C)O | C8H7NO
reactant | epichlorohydrin | 0.132 mol, 12.2 gm | C(Cl)C1CO1 | C3H5ClO
reactant | tert.-butylamine | 29 ml | C(C)(C)(C)N | C4H11N
solvent | NaOH | 1 N, 125 ml | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 1-(2-cyano-3-methyl-phenoxy)-2-hydroxy-3-tert.-butylamino propane hydrochloride | Cl.C(#N)C1=C(OCC(CNC(C)(C)C)O)C=CC=C1C | InChI=1S/C15H22N2O2.ClH/c1-11-6-5-7-14(13(11)8-16)19-10-12(18)9-17-15(2,3)4;/h5-7,12,17-18H,9-10H2,1-4H3;1H
